data/mechanisms/records/IMS8-EQT8.2q.json
{"mechanism_id": "IMS8-EQT8.2q", "species": [{"species_id": "propyl_acetate_radical_cation", "mapped_smiles": "[CH2:1]([1H:9])[CH:2]([1H:8])[CH2:3][O+:4]=[C:5]([O:6])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "allyl_radical", "mapped_smiles": "[CH2:1][CH:2]=[CH2:3]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_acetic_acid", "mapped_smiles": "[O:6]([1H:8])[C:5](=[O+:4][1H:9])[CH3:7]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["propyl_acetate_radical_cation"]}, {"state_id": "state_products", "species_ids": ["allyl_radical", "protonated_acetic_acid"]}], "steps": [{"step_id": "step_double_rH", "from_state": "state_precursor", "to_state": "state_products", "step_class": "double_hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 9]}, "target": {"type": "bond", "atom_maps": [4, 9]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_2rh", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_double_rH", "support_type": "textbook_proposed", "locator": {"page": 168, "equation": "Table 8.2", "figure": null, "panel": null, "section": null}, "confidence": 0.75, "curator_note": "Table 8.2 (printed p.168), second example row: OE+. reactant type alpha-i-i, charge-RETENTION, printed over a SINGLE arrow as '2rH' -- the double hydrogen rearrangement of an n-propyl ester. The book draws no intermediate, so the whole transformation is encoded as one formal arrow step. LOCALISATION (convention B): the printed reactant is drawn with the positive charge on the ESTER oxygen (map 4, written with the C=O+ double bond to the acyl carbon) and the odd electron on the CARBONYL oxygen (map 6, written as a singly bound O with a dot); the mapped_smiles reproduces that resonance form rather than the more common =[O+.] carbonyl form. The first H (map 8) sits on C-beta of the propyl chain and is transferred to the carbonyl O through the classical six-membered ester McLafferty ring (O(carbonyl), C(acyl), O(ester), C-alpha, C-beta, H) -- the hexagon actually drawn on the page. The second H (map 9) is encoded on C-gamma and is transferred to the ester O+ while the C-alpha-O bond leaves to form the C-alpha=C-beta pi bond. *** DRAWING DISCREPANCY (disclosed, not silently resolved) *** The two halves of this compressed table sketch do not agree, and the record follows the PRODUCT half. Measured on the native embedded scan (pypdf page.images[0], 1400x2016, rotated upright): the reactant's alkyl vertex at (1054,809) carries exactly three bonds -- a 32 px line up-right ending 4 px from the first 'H' label, a 34 px line right-down ending 2 px from the second 'H' label, and a 47 px vertical bond down to the vertex at (1055,856) that bonds on to the ester O+ at (1092,874). C-C bonds in this drawing are 44-48 px and bonds to atom labels 32-35 px, so BOTH short lines are C-H bonds: the printed reactant skeleton has only TWO alkyl carbons (an ethyl ester, m/z 88) and draws BOTH migrating hydrogens on the same terminal carbon; nothing is drawn beyond that vertex. The printed NEUTRAL product, by contrast, is unambiguously the three-carbon allyl radical (vertical C=C at x1258-1267/y822-867 plus a separate single bond up-right to a radical dot at (1305,792)), which with the even-electron m/z 61 ion requires a C5H10O2 (m/z 102) precursor and requires the two hydrogens to come from DIFFERENT carbons (C-beta and C-gamma). The book's own full treatment of this reaction, eq 4.46 (p.82, record IMS4-EQ4.46), draws n-propyl acetate with exactly that beta/gamma pair, so the table sketch is read here as an abbreviation that is short one chain carbon, and the record encodes n-propyl acetate. Corroboration that the omission is in the BOOK and not in this reading: the German-edition inside-cover rule h2Transiton_1 ([H]1[C]2([H]3)[C]4[_A]5[C]6([C]7){=}[_A+.]8), whose comment cites Gl. 4.46, transcribes precisely the two-carbon, both-H-on-one-carbon geometry printed here. Consequence for the arcs: the second transfer's arc is drawn springing from a C-H bond of the SAME vertex that donates the first H, whereas move 4 sources it from the C-gamma-H bond of the propyl chain. DELOCALISATION (convention C): the hydrocarbon product is the ALLYL radical, drawn on the page with the dot at one chain terminus; one localised form is chosen here, with the odd electron on C-gamma (map 1) and the double bond between map 2 and map 3. ARC TYPES: the two arcs of the first transfer are single-barbed fishhooks, the two arcs of the second transfer are full double-barbed arrowheads (verified by zooming the scan), so moves 4 and 5 carry electron_count 2. Book draws 4 arcs; moves 1,2,4,5 are drawn, move 3 is an implicit homolysis hook required for electron balance (not drawn on the page); it is written as landing on C-gamma (map 1) rather than on C-beta because the observed product is the allyl radical -- the formal allylic relocation of the odd electron is the price of encoding the concerted '2rH' as a single step."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 102.0675, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_protonated_acid", "species_id": "protonated_acetic_acid", "step_id": "step_double_rH", "observed_mz": 61.0284, "hydrogen_shift": 2, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
